US05661159
To a mixture of 5-acetyl-2-(methoxycarbonyl) methoxybenzaldehyde (4.47 g) in toluene, a solution of 1,8-diazabicyclo[5.4.0]-7-undecene (1.30 g) in toluene (8 ml) was added dropwise for 15 hours at refluxing temperature. After being cooled, the resulting mixture was washed with water, dried lover magnesium sulfate and concentrated under reduced pressure. The resulting precipitates were washed with diethyl ether to give 5-acetyl-2-methoxycarbonylbenzofuran (1.65 g).

reactant | 5-acetyl-2-(methoxycarbonyl) methoxybenzaldehyde | 4.47 g | C(C)(=O)C=1C=CC(=C(C=O)C1)OCC(=O)OC | C12H12O5
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.30 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 5-acetyl-2-methoxycarbonylbenzofuran | 1.65 g | C(C)(=O)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C12H10O4
